US08110579B2
10.6. 3-[({4″-Chloro-3″-[3-(dimethylamino)propoxy]-2,6-dimethoxy-1,1′:2′,1″-terphenyl-4′-yl}carbonyl)amino]-4-methylpentanoic acid hydrochloride
Add 141 mg (0.87 mmol) of CDI to a solution of 315 mg (0.67 mmol) of 4″-chloro-3″-[3-(dimethylamino)propoxy]-2,6-dimethoxy-1,1′:2′,1″-terphenyl-4′-carboxylic acid in 7 mL of anhydrous THF, and stir the reaction mixture at 55° C. for 1 h under argon. Add 70 mg (0.43 mmol) of carbonyl-1,1′-diimidazole and continue the reaction for 1 h at 50° C. Then add a suspension of 97 mg (0.74 mmol) of racemic 3-amino-4-methylpentanoic acid in a mixture of 4 mL of THF and 0.8 mL of DMF and continue stirring for 15 h at 55° C. After concentration under reduced pressure, distribute the residue obtained in 30 mL of a 2:1 DCM/water mixture. Wash the organic phase with 10 mL of water, dry over magnesium sulphate (MgSO4) and concentrate under reduced pressure. Purify the residue obtained by silica gel column chromatography, eluting with a DCM/methanol gradient from 0 to 5% of methanol. After concentration under reduced pressure, solidify the residue in ether, filter on a frit and wash with ether. We thus obtain 91 mg of 3-[({4″-chloro-3″-[3-(dimethylamino)propoxy]-2,6-dimethoxy-1,1′:2′,1″-terphenyl-4′-yl}carbonyl)amino]-4-methylpentanoic acid hydrochloride in the form of white powder.

reactant | CDI | 0.87 mmol, 141 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 4″-chloro-3″-[3-(dimethylamino)propoxy]-2,6-dimethoxy-1,1′:2′,1″-terphenyl-4′-carboxylic acid | 0.67 mmol, 315 mg | ClC1=C(C=C(C=C1)C=1C(=CC=C(C1)C(=O)O)C1=C(C=CC=C1OC)OC)OCCCN(C)C | C26H28ClNO5
reactant | carbonyl-1,1′-diimidazole | 0.43 mmol, 70 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | racemic 3-amino-4-methylpentanoic acid | 0.74 mmol, 97 mg | NC(CC(=O)O)C(C)C | C6H13NO2
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | DMF | 0.8 mL | CN(C)C=O | C3H7NO
product | 3-[({4″-Chloro-3″-[3-(dimethylamino)propoxy]-2,6-dimethoxy-1,1′:2′,1″-terphenyl-4′-yl}carbonyl)amino]-4-methylpentanoic acid hydrochloride | Cl.ClC1=C(C=C(C=C1)C=1C(=CC=C(C1)C(=O)NC(CC(=O)O)C(C)C)C1=C(C=CC=C1OC)OC)OCCCN(C)C | InChI=1S/C32H39ClN2O6.ClH/c1-20(2)26(19-30(36)37)34-32(38)22-11-13-23(31-27(39-5)9-7-10-28(31)40-6)24(17-22)21-12-14-25(33)29(18-21)41-16-8-15-35(3)4;/h7,9-14,17-18,20,26H,8,15-16,19H2,1-6H3,(H,34,38)(H,36,37);1H
